Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Latex
 
Attending: ___.
 
Chief Complaint:
Abd pain
 
Major Surgical or Invasive Procedure:
EGD
 
History of Present Illness:
Per admitting resident: ___ is a ___ y/o woman who 
had an open roux-en-y gastric bypass for extrmee morbid obesity 
(preop BMI 94.9) and partial liver resection in ___ with Dr. 
___. She has been well since surgery. During her ___ 
follow-up visit, she was noted to have some increased 
nausea/heartburn noted but an EGD done on ___ was normal. 
She reports that she tolerated her regular dinner last night, 
but was woken from sleep at ~0200 with severe epigastric 
pain/burning, nausea, feeling the urge to vomit but no emesis, 
and she reported feeling dizzy and weak while climbing stairs at 
home. The epigastric burning lasted ~6 hours, at which point she 
called the ___ service and was advised to go to her local 
emergency room. At an OSH ED, she had a CT abd that was negative 
for free air, free fluid in the abdomen, CBC and chem-10 within 
normal limits and a negative troponin x1, and her symptoms 
resolved. At ~1500, she had some crackers and ginger ale, at 
which point her symptoms returned and she was transferred to 
___ for further evaluation. 

 

 
Past Medical History:
Past Medical History:
1.  History of hepatic adenoma.
2.  Polycystic ovary disease.
3.  Hypothyroid for which she is on Synthroid.
4.  Hyperlipidemia, resolved.
5.  Obstructive sleep apnea, resolved.
6.  Urinary tract infection.  This is actually the incidence of 
    these have decreased since her weight loss.
7.  Hypertension, resolved.
8.  Gastroesophageal reflux.  This predated her weight loss 
    operation, but has recurred recently to a mild extent.
9.  Incisional hernia.

Past Surgical History:
1.  Wisdom teeth extraction in ___.
2.  Tonsillectomy and adenoidectomy in ___.
3.  Open Roux-en-Y gastric bypass, cholecystectomy and left
hepatectomy for adenoma in ___.
4.  Right liver resection in ___ at ___.

 
Social History:
___
Family History:
Family history is noted for father deceased had hyperlipidemia 
and obesity; mother living age ___ with obesity; grandfather 
deceased with heart disease; grandmother living age ___ with 
arthritis and other grandmother with lupus.

 
Physical Exam:
VSS
Constitutional: NAD
Neuro: Alert and oriented x 3
Cardiac: RRR, NL S1, S2
Resp: CTA B
Abd: Soft, non-tender, non-distended, no rebound tenderness or 
guarding
Wounds: Abd lap sites CDI
Ext: No edema

 
Pertinent Results:
___ 07:40PM BLOOD WBC-8.0 RBC-4.46 Hgb-12.1 Hct-37.0 MCV-83 
MCH-27.1 MCHC-32.7 RDW-12.8 Plt ___
___ 07:40PM BLOOD Neuts-58.5 ___ Monos-3.7 Eos-3.6 
Baso-0.7
___ 07:40PM BLOOD Glucose-90 UreaN-7 Creat-0.5 Na-139 K-3.9 
Cl-104 HCO3-26 AnGap-13
___ 07:40PM BLOOD ALT-25 AST-26 AlkPhos-66 TotBili-0.5
___ 07:40PM BLOOD Lipase-36
___ 07:40PM BLOOD Albumin-4.0
___ 09:50PM BLOOD Lactate-1.5

EGD: 
Normal mucosa in the esophagus
Evidence of a previous Roux-en-y Gastric bypass surgery was 
seen. The GE junction was at 40 cm and the GJ at 45 cm. The 
mucosa of the stomach pouch appeared normal. There was slight 
narrowing at the GJ junction to 13 mm but the scope could easily 
traverse. There was some nodularity at the GJ junction. No ulcer 
noted. The blind limb appeared normal. (biopsy)
Normal mucosa in the duodenum Otherwise normal EGD to jejunum 
and blind limb
 
Brief Hospital Course:
Ms. ___ is a ___ year-old female with a history of 
roux-en-Y gastric bypass with history of a marginal ulcer 
admitted to the hospital on ___ due to new onset 
epigastric pain in setting of known smoking.  Upon arrival, she 
was placed on bowel rest with intravenous fluids and antiacids.  
Po's were trialed on HD2 due to resolution of pain, however, the 
patient's pain returned.  She subsequently underwent an EGD on 
HD3, which did not show a marginal ulcer, therefore, her pain 
was attributed to a possible ulcer in the remnant stomach.  
Post-procedure, as she remained hemodynamically stable with 
improved pain and tolerance to a stage 3 diet, she was 
discharged to home on omeprazole.  She will follow-up with Dr. 
___ in clinic within the next few weeks.  
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Multivitamins W/minerals 1 TAB PO BID 
3. Omeprazole 40 mg PO BID 
4. Calcium Carbonate 500 mg PO DAILY 
5. Citalopram 10 mg PO DAILY 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. biotin 2,500 mcg oral daily 
8. Cyanocobalamin 500 mcg PO 1X/WEEK (___) 
9. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. biotin 2,500 mcg oral daily 
3. Calcium Carbonate 500 mg PO DAILY 
4. Citalopram 10 mg PO DAILY 
5. Cyanocobalamin 500 mcg PO 1X/WEEK (___) 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. Multivitamins W/minerals 1 TAB PO BID 
8. Omeprazole 40 mg PO BID 
9. Vitamin D ___ UNIT PO DAILY 
10. Sucralfate 1 gm PO QID 
RX *sucralfate 1 gram/10 mL 10 ML by mouth four times a day 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 
presumed remnant stomach ulcer

Secondary diagnosis: history of morbid obesity, post Roux-en-Y 
gastric bypass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were seen at the ___ due to 
stomach pain caused by a presumed ulcer, which has occured as 
the result of smoking. We monitored your blood counts and labs 
while you were admitted and have determined that your symptoms 
are unlikely due to a bleeding ulcer. We are sending you home at 
this time.  Please continue to take your antiacid, twice daily.
 
Followup Instructions:
___